US04598079
3-(2-thienyl)-4-formylpiperazin-2-one
Using 4-nitrobenzoyl chloride: 3-(2-thienyl)-4-(4-nitrobenzoyl)-piperazin-2-one, yield: 83% of theory, melting point: 204° C.

reactant | 4-nitrobenzoyl chloride | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | 3-(2-thienyl)-4-(4-nitrobenzoyl)-piperazin-2-one | S1C(=CC=C1)C1C(NCCN1C(C1=CC=C(C=C1)[N+](=O)[O-])=O)=O | C15H13N3O4S
product | 3-(2-thienyl)-4-formylpiperazin-2-one | S1C(=CC=C1)C1C(NCCN1C=O)=O | C9H10N2O2S
